data/oMe_Silver.jsonl
{"reaction_id": "NR-319_1-C(C)C_2-C(C)C_3-CCC_4-C2CC2","level": "medium","name": "Wharton Reaction","reactants_smiles": ["C(=O)(C(C)C)C1(C(C)C)OC1(CCC)C2CC2","NN"],"products_smiles": ["[CH](=C(C(C)C)C(O)(CCC)C2CC2)C(C)C"],"conditions": "Acid/Base catalyst (e.g., Acetic Acid)","mechanism_step_nums": 5,"mechanism": [{"step": 1,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C(=NN)(C(C)C)C1(C(C)C)OC1(CCC)C2CC2","step_weight": 0,"rationale": "Hydrazine acts as a nucleophile, attacking the electrophilic carbonyl carbon due to its partial positive charge, facilitated by acid/base catalysis that activates the carbonyl."},{"step": 2,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "[NH2+]=NC(C(C)C)=C(C(C)C)C(O)(CCC)C2CC2","step_weight": 0,"rationale": "Protonation of the leaving group and resonance stabilization of the diazonium-like intermediate promote elimination of the cyclic ether moiety."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "N=NC(C(C)C)=C(C(C)C)C(O)(CCC)C2CC2","step_weight": 0,"rationale": "Proton transfer neutralizes charge and generates the neutral diazene, stabilizing the intermediate for the next elimination step."},{"step": 5,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "[C-](=C(C(C)C)C(O)(CCC)C2CC2)C(C)C","step_weight": 0,"rationale": "Loss of nitrogen gas is highly favorable due to its inertness and strong N≡N bond, forming a carbanion stabilized by adjacent substituents."},{"step": 6,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[CH](=C(C(C)C)C(O)(CCC)C2CC2)C(C)C","step_weight": 0,"rationale": "Protonation of the carbanion yields the alkene, driven by the thermodynamic stability of the C=C bond and relief of negative charge."}],"description": "In the Wharton reaction, hydrazine attacks the carbonyl to form a hydrazone, which under acidic/basic conditions eliminates to form a diazene intermediate. Subsequent proton transfers and nitrogen extrusion yield the alkene, driven by the stability of N₂ and conjugated product."}
{"reaction_id": "NR-324_1-c1ccccc1C_2-c1ccccc1_3-C#N_4-C_5-c1ccccc1","level": "medium","name": "Wohl-Ziegler Reaction","reactants_smiles": ["c1ccccc1CC(c1ccccc1)=C(C#N)C(C)c1ccccc1","O=C1CCC(=O)N1Br","CC(C)(C#N)N=NC(C)(C#N)C"],"products_smiles": ["c1ccccc1CC(c1ccccc1)=C(C#N)C(C)(c1ccccc1)Br"],"conditions": "Heat or Light, Non-polar solvent (e.g. CCl4)","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "radical","subtype": "radical_initiation","intermediate_smiles": "C[C](C)C#N","step_weight": 0,"rationale": "Thermal or photolytic homolysis of the azo initiator produces a stabilized carbon-centered radical due to adjacent electron-withdrawing cyano groups, facilitating radical chain initiation."},{"step": 2,"type": "radical","subtype": "radical_initiation","intermediate_smiles": "[Br]","step_weight": 0,"rationale": "The carbon radical abstracts bromine from NBS, generating a bromine radical; NBS is an effective bromine source due to the weak N–Br bond and resonance stabilization of the succinimide byproduct."},{"step": 3,"type": "radical","subtype": "radical_propagation","intermediate_smiles": "c1ccccc1CC(c1ccccc1)=C(C#N)[C](C)c1ccccc1","step_weight": 0,"rationale": "The bromine radical abstracts an allylic hydrogen from the alkene, favored by the resonance stabilization of the resulting allylic radical and the relatively weak allylic C–H bond."},{"step": 4,"type": "radical","subtype": "radical_propagation","intermediate_smiles": "c1ccccc1CC(c1ccccc1)=C(C#N)C(C)(c1ccccc1)Br","step_weight": 0,"rationale": "The allylic radical reacts with molecular bromine (from NBS equilibrium) to form the C–Br bond, driven by the stability of the product and the high reactivity of bromine radicals."}],"description": "Under heat or light in a non-polar solvent, the NBS-based Wohl–Ziegler reaction generates bromine radicals that selectively allylically brominate the alkene. Radical initiation produces a stable radical source, which abstracts allylic hydrogen, followed by bromine radical capture to yield the brominated product."}
